US06107361
(4-octyloxyphenyl) phenyl iodonium hexafluoro antimonate;
(4-octyloxyphenyl) diphenyl sulfonium hexafluoroantimonate; (4-decyloxyphenyl) phenyl iodonium hexafluoro antimonate; and (4-octadecyloxyphenyl) phenyl iodonium hexafluoro antimonate.

reactant | (4-octyloxyphenyl) diphenyl sulfonium hexafluoroantimonate | F[Sb-](F)(F)(F)(F)F.C(CCCCCCC)OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | (4-decyloxyphenyl) phenyl iodonium hexafluoro antimonate | F[Sb-](F)(F)(F)(F)F.C(CCCCCCCCC)OC1=CC=C(C=C1)[I+]C1=CC=CC=C1
reactant | (4-octadecyloxyphenyl) phenyl iodonium hexafluoro antimonate | F[Sb-](F)(F)(F)(F)F.C(CCCCCCCCCCCCCCCCC)OC1=CC=C(C=C1)[I+]C1=CC=CC=C1
product | (4-octyloxyphenyl) phenyl iodonium hexafluoro antimonate | F[Sb-](F)(F)(F)(F)F.C(CCCCCCC)OC1=CC=C(C=C1)[I+]C1=CC=CC=C1 | InChI=1S/C20H26IO.6FH.Sb/c1-2-3-4-5-6-10-17-22-20-15-13-19(14-16-20)21-18-11-8-7-9-12-18;;;;;;;/h7-9,11-16H,2-6,10,17H2,1H3;6*1H;/q+1;;;;;;;+5/p-6
